US05700938
Toluene (50 ml) was added to 4.0 g (9.7 mmol) of 2-[N-2'-cyanobiphenyl-4-yl)methyl]cyclopropanecarboxamido-4-methyl-3-nitropyridine, 4.5 g (97.8 mmol of formic acid 14.7 g (145.5 mmol) of triethylamine and 10% Pd--C (200 mg), followed by heating under reflux for 15 hours. After the reaction liquid was brought to room temperature and filtered to remove the catalyst, vacuum concentration was effected. Chloroform (100 ml) and water (100 ml) were added to the residue and the obtained mixture was caused liquid-liquid separation. The aqueous phase was further extracted with chloroform (50 ml) twice. The organic phases were combined, dried over anhydrous magnesium sulfate and subjected to vacuum concentration. The residue was purified by silica gel column chromatography (n-hexane/ethyl acetate) to give 2.9 g of 2-cyclopropyl-3-(2'-cyanobiphenyl-4-yl)methyl-7-methyl-3H-imidazo[4,5-b]pyridine (yield 83%).

reactant | Toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
reactant | cyclopropanecarboxamido-4-methyl-3-nitropyridine | C1(CC1)C(=O)NC1=NC=CC(=C1[N+](=O)[O-])C | C10H11N3O3
reactant | formic acid | 97.8 mmol, 14.7 g | C(=O)O | CH2O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-cyclopropyl-3-(2'-cyanobiphenyl-4-yl)methyl-7-methyl-3H-imidazo[4,5-b]pyridine | 2.9 g, yield 83% | C1(CC1)C1=NC=2C(=NC=CC2C)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C24H20N4
